US05932576
4-(4-Fluorophenyl)-3-(4-pyridinyl)-1H-pyrazole-1-ethanol (or 4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-1-ethanol) prepared as set forth in Example 11 (1.36 g) was dissolved in 30 mL pyridine and cooled to 0° C., whereupon methanesulfonyl chloride (0.6 mL) was added. After stirring at 0° C. for 12 hours, about 20 g of ice was added, and the mixture was extracted with toluene (300 ml). After evaporation, the residue was used directly without further purification. 0.7 g of the above obtained compound was dissolved in methanol (25 mL), and dimethylamine/THF solution (4M, 2 mL) was added. The reaction mixture was refluxed for 12 hours, then evaporated to dryness. The residue was purified by chromatography (methanol/dichloromethane 1:10). A mixture (0.59 g) of 4-(4-fluorophenyl)-N,N-dimethyl-3-(4-pyridinyl)-1H-pyrazole-1-ethanamine and 4-(4-fluorophenyl)-N,N-dimethyl-5-(4-pyridinyl)-1H-pyrazole-1-ethanamine were obtained. 1H NMR: consistent with the assigned structure. Mass spectrum, m/z: 311 (M+1). Anal. calc'd C18H19N4F.0.55H2O: C, 67.50; H, 6.33; N, 17.49. Found: C, 67.21; H, 6.46; N, 17.14.

reactant | 4-(4-Fluorophenyl)-3-(4-pyridinyl)-1H-pyrazole-1-ethanol | FC1=CC=C(C=C1)C=1C(=NN(C1)CCO)C1=CC=NC=C1 | C16H14FN3O
reactant | 4-(4-fluorophenyl)-5-(4-pyridinyl)-1H-pyrazole-1-ethanol | FC1=CC=C(C=C1)C=1C=NN(C1C1=CC=NC=C1)CCO | C16H14FN3O
reactant | methanesulfonyl chloride | 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-fluorophenyl)-N,N-dimethyl-3-(4-pyridinyl)-1H-pyrazole-1-ethanamine | 0.59 g | FC1=CC=C(C=C1)C=1C(=NN(C1)CCN(C)C)C1=CC=NC=C1 | C18H19FN4
